US05714501
1-(2-Benzyloxycarbonylaminoacetyl)-4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine
The title compound, a white crystalline, was prepared by acylation of 4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine with N-benzyloxycarbonylglycine chloride in a similar way as described under Example 19. Yield: 61%

reactant | 4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCNCC3 | C20H19N
reactant | N-benzyloxycarbonylglycine chloride | C(C1=CC=CC=C1)OC(=O)NCC(=O)Cl | C10H10ClNO3
product | 1-(2-Benzyloxycarbonylaminoacetyl)-4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine | Yield: 61% | C(C1=CC=CC=C1)OC(=O)NCC(=O)N1CCC(CC1)=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C30H28N2O3
